data/oMe_Silver.jsonl
{"reaction_id": "NR-223_1-c1ccc(Cl)cc1_2-C(c1ccccc1)c2ccccc2_3-c1ccoc1_4-c1ccc(c2ccccc2)cc1","level": "medium","name": "Pinacol Rearrangement","reactants_smiles": ["C(c1ccc(Cl)cc1)(C(c1ccccc1)c2ccccc2)(O)C(O)(c1ccoc1)(c1ccc(c2ccccc2)cc1)"],"products_smiles": ["C(=O)(c1ccc(Cl)cc1)C(C(c1ccccc1)c2ccccc2)(c1ccoc1)(c1ccc(c2ccccc2)cc1)"],"conditions": "H2O","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(Cl)cc1)(C(c1ccccc1)c2ccccc2)(O)C([OH2+])(c1ccoc1)(c1ccc(c2ccccc2)cc1)","step_weight": 0,"rationale": "Protonation of the hydroxyl group increases its leaving group ability by converting OH into water, aided by the acidic medium."},{"step": 2,"type": "cleavage","subtype": "heterolytic_cleavage","intermediate_smiles": "C(c1ccc(Cl)cc1)(C(c1ccccc1)c2ccccc2)(O)[C+](c1ccoc1)(c1ccc(c2ccccc2)cc1)","step_weight": 0,"rationale": "Water departs as a neutral, stable molecule, generating a carbocation stabilized by adjacent oxygen through inductive and resonance effects."},{"step": 3,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "C(=O)(c1ccc(Cl)cc1)C(C(c1ccccc1)c2ccccc2)(c1ccoc1)(c1ccc(c2ccccc2)cc1)","step_weight": 0,"rationale": "A 1,2-alkyl shift occurs to form a more stable carbocation adjacent to oxygen, enabling resonance stabilization and subsequent ketone formation."}],"description": "Under acidic aqueous conditions, the diol undergoes protonation to activate one hydroxyl group, followed by loss of water to generate a carbocation. A 1,2-alkyl shift then stabilizes the cation via resonance with the adjacent oxygen, yielding the rearranged ketone."}
{"reaction_id": "NR-137_1-CC_2-CC_3-CCCC(C)C_4-c1ccccc1","name": "Maitland-Japp Reaction","level": "medium","reactants_smiles": ["C(CC)C(=O)C(CC)","O=CC(CCCC(C)C)"],"products_smiles": ["C1(CCCC(C)C)OC(c1ccccc1)C(CC)C(=O)C1(CC)"],"conditions": "Acid","mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(CC)C(=O)C(=C(CCCC(C)C))(CC)","rationale": "Acid catalysis increases carbonyl electrophilicity, enabling enol or enolate attack on the aldehyde to form the conjugated α,β-unsaturated system stabilized by resonance."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(CCCC(C)C)=C(CC)C(=O)C(CC)C(O)(c1ccccc1)","rationale": "The activated alkene undergoes nucleophilic addition from a hydroxyl group, favored by conjugation breaking and formation of a stabilized carbocation intermediate under acidic conditions."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(CCCC(C)C)=C(CC)C(=[OH+])C(CC)C(O)(c1ccccc1)","rationale": "Protonation of the carbonyl oxygen increases electrophilicity, preparing the intermediate for subsequent intramolecular nucleophilic attack."},{"step": 4,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1(CCCC(C)C)C(CC)=C(O)C(CC)C(c1ccccc1)[OH+]1","rationale": "Intramolecular nucleophilic addition is favored entropically and electronically, as the nearby hydroxyl oxygen attacks the protonated carbonyl to form a cyclic oxonium ion."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1(CCCC(C)C)C(CC)=C(O)C(CC)C(c1ccccc1)O1","rationale": "Deprotonation of the oxonium ion restores neutrality, stabilizing the newly formed heterocyclic ring."},{"step": 6,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1(CCCC(C)C)OC(c1ccccc1)C(CC)C(=O)C1(CC)","rationale": "Proton transfer rearranges the oxygen protonation state, yielding the thermodynamically stable cyclic ether with a carbonyl group."}],"description": "Under acidic conditions, the carbonyl compound and aldehyde undergo condensation to form an α,β-unsaturated intermediate, which then participates in intramolecular nucleophilic addition and cyclization. Proton transfers facilitate ring closure and rearrangement to yield the stable cyclic product."}
